US07365078B2
To a suspension of 8-(2-bromo-4-isopropyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (321 mg) in ethanol (1.5 mL) was added conc. HCl (0.75 mL) and heated for 50° C. for 3 hours. The reaction mixture was cooled to room temperature, poured into a saturated aqueous sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to give crude product. To a solution of the crude product in ethyl acetate (2 mL) and ethanol (0.2 mL) was added 4M HCl/ethyl acetate (0.25 mL) under ice-cooling and concentrated under reduced pressure. The residue was crystallized from ethyl acetate to provide 4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride (350 mg) as a solid.

reactant | 8-(2-bromo-4-isopropyl-phenyl)-2-methyl-4-(1-propyl-butylamino)-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 321 mg | BrC1=C(C=CC(=C1)C(C)C)C=1C=C(N2C1N=C(C=C2NC(CCC)CCC)C)C#N | C25H31BrN4
reactant | HCl | 0.75 mL | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | HCl ethyl acetate | 4M, 0.25 mL | Cl.C(C)(=O)OCC
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.2 mL | C(C)O | C2H6O
product | 4-(2-bromo-4-isopropyl-phenyl)-6-methyl-1-(1-propyl-butyl)-1H-1,5,7b-triaza-cyclopenta[cd]inden-2-ylideneamine hydrochloride | 350 mg | Cl.BrC1=C(C=CC(=C1)C(C)C)C=1C=C2C(N(C3=CC(=NC1N23)C)C(CCC)CCC)=N | InChI=1S/C25H31BrN4.ClH/c1-6-8-18(9-7-2)29-23-12-16(5)28-25-20(14-22(24(29)27)30(23)25)19-11-10-17(15(3)4)13-21(19)26;/h10-15,18,27H,6-9H2,1-5H3;1H
